US09227976B2
4-chloro-3-(1H-indol-2-yl)-1-(2-(4-methylpiperazin-1-yl)ethyl)-5-phenyl-1H-pyrazolo[3,4-c]pyridazine (Compound Im)
A solution of tert-butyl 2-(4-chloro-1-(2-(4-methylpiperazin-1-yl)ethyl)-5-phenyl-1H-pyrazolo[3,4-c]pyridazin-3-yl)-1H-indole-1-carboxylate (29 mg, 0.051 mmol) in CH2Cl2 (3 mL) and trifluoroacetic acid (0.8 mL) was stirred at room temperature for 1 d. Solid NaHCO3 was added until no gas was evolved and sat. aq. NaHCO3 solution and CH2Cl2 was added. The layers were separated and the aqueous was extracted with CH2Cl2, the combined organics were dried (MgSO4), filtered and concentrated in vacuo. The residue was freeze dried from acetonitrile and water to provide Compound Im as a solid.

reactant | tert-butyl 2-(4-chloro-1-(2-(4-methylpiperazin-1-yl)ethyl)-5-phenyl-1H-pyrazolo[3,4-c]pyridazin-3-yl)-1H-indole-1-carboxylate | 0.051 mmol, 29 mg | ClC1=C2C(=NN=C1C1=CC=CC=C1)N(N=C2C=2N(C1=CC=CC=C1C2)C(=O)OC(C)(C)C)CCN2CCN(CC2)C | C31H34ClN7O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | trifluoroacetic acid | 0.8 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 4-chloro-3-(1H-indol-2-yl)-1-(2-(4-methylpiperazin-1-yl)ethyl)-5-phenyl-1H-pyrazolo[3,4-c]pyridazine | ClC1=C2C(=NN=C1C1=CC=CC=C1)N(N=C2C=2NC1=CC=CC=C1C2)CCN2CCN(CC2)C | C26H26ClN7
